US08877774B2
Step 3. 3-(1,3-Dioxolan-2-yl)propyl 4-((3-(((tert-butoxycarbonyl)amino)(phenyl)-methyl)phenoxy)methyl)benzoate
The title compound was prepared from 4-((3-(((tert-butoxycarbonyl)amino)-(phenyl)methyl)phenoxy)methyl)benzoic acid and 2-(3-chloropropyl)-1,3-dioxolane according to the method of Chiral Example 5 Step 1.

reactant | 4-((3-(((tert-butoxycarbonyl)amino)-(phenyl)methyl)phenoxy)methyl)benzoic acid | C(C)(C)(C)OC(=O)NC(C=1C=C(OCC2=CC=C(C(=O)O)C=C2)C=CC1)C1=CC=CC=C1 | C26H27NO5
reactant | 2-(3-chloropropyl)-1,3-dioxolane | ClCCCC1OCCO1 | C6H11ClO2
product | 3-(1,3-Dioxolan-2-yl)propyl 4-((3-(((tert-butoxycarbonyl)amino)(phenyl)-methyl)phenoxy)methyl)benzoate | C(C)(C)(C)OC(=O)NC(C=1C=C(OCC2=CC=C(C(=O)OCCCC3OCCO3)C=C2)C=CC1)C1=CC=CC=C1 | C32H37NO7
